US07049310B2
Preparation of (E)-N-(7-chloro-1-methyl-1H-indol-3-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-acrylamide
A solution of 7-chloro-1-methyl-3-(methylaminomethyl)-1H-indole (104.3 mg, 0.5 mmole) and (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-acrylic acid (109.1 mg, 0.5 mmole) in dry DMF (8 mL) was treated with dry Et3N (0.2 mL), HOBt.H2O (76.5 mg, 0.5 mmole) and EDC (96 mg, 0.5 mmole). The solution was stirred at RT under argon for 20 h, then was concentrated. The oily residue was dissolved in MeOH and the solution was cooled. The precipitated solid was collected, washed with cold MeOH, and dried to give the title compound (95 mg, 47%): MS (ES) m/e 409.2 (M+H)+. Anal. Calcd for C22H21ClN4O2.0.25 H2O: C, 63.92; H, 5.24; N, 13.55. Found: C, 63.56; H, 5.14; N, 13.73.

reactant | 7-chloro-1-methyl-3-(methylaminomethyl)-1H-indole | 0.5 mmole, 104.3 mg | ClC=1C=CC=C2C(=CN(C12)C)CNC | C11H13ClN2
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-acrylic acid | 0.5 mmole, 109.1 mg | O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O | C11H10N2O3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.5 mmole, 76.5 mg | O | H2O
reactant | EDC | 0.5 mmole, 96 mg
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
product | (E)-N-(7-chloro-1-methyl-1H-indol-3-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)-acrylamide | 95 mg, 47% | ClC=1C=CC=C2C(=CN(C12)C)CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)C | C22H21ClN4O2
